US05516676
0.5 mg cephalomannine in 20 μl methanol was incubated with 2 ml supernatant for 17 hours on an end-over-end shaker (Fisher Roto-Rack). The solution was extracted with methylene chloride, the extract was evaporated, resuspended in methanol and analyzed by HPLC (Method 2 described following). Cephalomannine concentration was decreased from 0.175 mg/ml to 0 and 0.110 mg/ml baccatin III was produced (89 mol % yield based on analyzed initial cephalomannine concentration).

reactant | cephalomannine | 0.5 mg | C/C=C(\C)/C(=O)N[C@@H](C=1C=CC=CC1)[C@H](C(=O)O[C@H]2C[C@]3([C@H]([C@H]4[C@@]([C@H](C[C@@H]5[C@]4(CO5)OC(=O)C)O)(C(=O)[C@@H](C(=C2C)C3(C)C)OC(=O)C)C)OC(=O)C=6C=CC=CC6)O)O | C45H53NO14
solvent | methanol | 20 μl | CO | CH4O
product | baccatin III | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)OC(=O)C | C31H38O11
